US06355799B1
Preparation of 2-(4-chloro-6-fluoro-3-hydroxy-2-nitrophenyl)-5-trifluoromethylpyridazin-3-one (Compound no. 11-2)
Nitric acid (70%, 12 ml) was added to the ice-cooled 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-5-trifluoromethylpyridazin-3-one (1.25 g) and stirred at room temperature for 30 minutes. Crushed ice was added. The precipitate was collected by filtration and washed with water to give 1.20 g of the desired product, m.p. 146-8° C.

reactant | Nitric acid | 12 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2-(4-chloro-2-fluoro-5-hydroxyphenyl)-5-trifluoromethylpyridazin-3-one | 1.25 g | ClC1=CC(=C(C=C1O)N1N=CC(=CC1=O)C(F)(F)F)F | C11H5ClF4N2O2
product | 2-(4-chloro-6-fluoro-3-hydroxy-2-nitrophenyl)-5-trifluoromethylpyridazin-3-one | 1.20 g | ClC1=C(C(=C(C(=C1)F)N1N=CC(=CC1=O)C(F)(F)F)[N+](=O)[O-])O | C11H4ClF4N3O4
